PC inference
.model NNR NMOS (LEVEL=1 VTO=0.2 KP=120u LAMBDA=0.02 GAMMA=0 PHI=0.7)
.model PNR PMOS (LEVEL=1 VTO=-0.2 KP=40u LAMBDA=0.02 GAMMA=0 PHI=0.7)
.subckt dsyn inp inn outp outn wp wn vdd
M1 outp inp tp 0 NNR W=200u L=100u
M2 outn inn tp 0 NNR W=200u L=100u
Mtp tp wp 0 0 NNR W=200u L=100u
M3 outn inp tn 0 NNR W=200u L=100u
M4 outp inn tn 0 NNR W=200u L=100u
Mtn tn wn 0 0 NNR W=200u L=100u
.ends
.subckt dneuron up un ap an vdd vbn
M1 an up tn 0 NNR W=200u L=100u
M2 ap un tn 0 NNR W=200u L=100u
Mt tn vbn 0 0 NNR W=200u L=100u
RLa vdd ap 800k
RLb vdd an 800k
.ends
.subckt esub xp xn mp mn ep en vdd vbn
Mt nt vbn 0 0 NNR W=400u L=100u
M1x ep xn nt 0 NNR W=200u L=100u
M2x en xp nt 0 NNR W=200u L=100u
M1m ep mp nt 0 NNR W=200u L=100u
M2m en mn nt 0 NNR W=200u L=100u
RLp vdd ep 50k
RLn vdd en 50k
.ends
Vdd vdd 0 1.0
Vgm gm 0 0.6
Vbneu vbneu 0 0.30
Vx1p a_xp1 0 0.8
Vx1n a_xn1 0 0.2
Vx2p a_xp2 0 0.2
Vx2n a_xn2 0 0.8
Mlp_mh0 mhp0 mhp0 vdd vdd PNR W=3000u L=100u
Mln_mh0 mhn0 mhn0 vdd vdd PNR W=3000u L=100u
Mlp_xh0 xhp0 xhp0 vdd vdd PNR W=3000u L=100u
Mln_xh0 xhn0 xhn0 vdd vdd PNR W=3000u L=100u
Cxhp0 xhp0 0 0.4p
Cxhn0 xhn0 0 0.4p
Vwp_ihm_1_0 wp_ihm_1_0 0 0.5691
Vwn_ihm_1_0 wn_ihm_1_0 0 0.4309
X_ihm_1_0 a_xp1 a_xn1 mhp0 mhn0 wp_ihm_1_0 wn_ihm_1_0 vdd dsyn
Vwp_ihx_1_0 wp_ihx_1_0 0 0.5691
Vwn_ihx_1_0 wn_ihx_1_0 0 0.4309
X_ihx_1_0 a_xp1 a_xn1 xhp0 xhn0 wp_ihx_1_0 wn_ihx_1_0 vdd dsyn
Vwp_ihm_2_0 wp_ihm_2_0 0 0.6643
Vwn_ihm_2_0 wn_ihm_2_0 0 0.3357
X_ihm_2_0 a_xp2 a_xn2 mhp0 mhn0 wp_ihm_2_0 wn_ihm_2_0 vdd dsyn
Vwp_ihx_2_0 wp_ihx_2_0 0 0.6643
Vwn_ihx_2_0 wn_ihx_2_0 0 0.3357
X_ihx_2_0 a_xp2 a_xn2 xhp0 xhn0 wp_ihx_2_0 wn_ihx_2_0 vdd dsyn
Vwp_bk_0 wp_bk_0 0 0.5661
Vwn_bk_0 wn_bk_0 0 0.4339
X_bk_0 eop eon xhp0 xhn0 wp_bk_0 wn_bk_0 vdd dsyn
Xn0 xhp0 xhn0 ahp0 ahn0 vdd vbneu dneuron
Xeh0 xhp0 xhn0 mhp0 mhn0 ehp0 ehn0 vdd gm esub
Mlp_mh1 mhp1 mhp1 vdd vdd PNR W=3000u L=100u
Mln_mh1 mhn1 mhn1 vdd vdd PNR W=3000u L=100u
Mlp_xh1 xhp1 xhp1 vdd vdd PNR W=3000u L=100u
Mln_xh1 xhn1 xhn1 vdd vdd PNR W=3000u L=100u
Cxhp1 xhp1 0 0.4p
Cxhn1 xhn1 0 0.4p
Vwp_ihm_1_1 wp_ihm_1_1 0 0.3000
Vwn_ihm_1_1 wn_ihm_1_1 0 0.7606
X_ihm_1_1 a_xp1 a_xn1 mhp1 mhn1 wp_ihm_1_1 wn_ihm_1_1 vdd dsyn
Vwp_ihx_1_1 wp_ihx_1_1 0 0.3000
Vwn_ihx_1_1 wn_ihx_1_1 0 0.7606
X_ihx_1_1 a_xp1 a_xn1 xhp1 xhn1 wp_ihx_1_1 wn_ihx_1_1 vdd dsyn
Vwp_ihm_2_1 wp_ihm_2_1 0 0.6811
Vwn_ihm_2_1 wn_ihm_2_1 0 0.3189
X_ihm_2_1 a_xp2 a_xn2 mhp1 mhn1 wp_ihm_2_1 wn_ihm_2_1 vdd dsyn
Vwp_ihx_2_1 wp_ihx_2_1 0 0.6811
Vwn_ihx_2_1 wn_ihx_2_1 0 0.3189
X_ihx_2_1 a_xp2 a_xn2 xhp1 xhn1 wp_ihx_2_1 wn_ihx_2_1 vdd dsyn
Vwp_bk_1 wp_bk_1 0 0.5893
Vwn_bk_1 wn_bk_1 0 0.4107
X_bk_1 eop eon xhp1 xhn1 wp_bk_1 wn_bk_1 vdd dsyn
Xn1 xhp1 xhn1 ahp1 ahn1 vdd vbneu dneuron
Xeh1 xhp1 xhn1 mhp1 mhn1 ehp1 ehn1 vdd gm esub
Mlp_mh2 mhp2 mhp2 vdd vdd PNR W=3000u L=100u
Mln_mh2 mhn2 mhn2 vdd vdd PNR W=3000u L=100u
Mlp_xh2 xhp2 xhp2 vdd vdd PNR W=3000u L=100u
Mln_xh2 xhn2 xhn2 vdd vdd PNR W=3000u L=100u
Cxhp2 xhp2 0 0.4p
Cxhn2 xhn2 0 0.4p
Vwp_ihm_1_2 wp_ihm_1_2 0 0.3926
Vwn_ihm_1_2 wn_ihm_1_2 0 0.6074
X_ihm_1_2 a_xp1 a_xn1 mhp2 mhn2 wp_ihm_1_2 wn_ihm_1_2 vdd dsyn
Vwp_ihx_1_2 wp_ihx_1_2 0 0.3926
Vwn_ihx_1_2 wn_ihx_1_2 0 0.6074
X_ihx_1_2 a_xp1 a_xn1 xhp2 xhn2 wp_ihx_1_2 wn_ihx_1_2 vdd dsyn
Vwp_ihm_2_2 wp_ihm_2_2 0 0.6162
Vwn_ihm_2_2 wn_ihm_2_2 0 0.3838
X_ihm_2_2 a_xp2 a_xn2 mhp2 mhn2 wp_ihm_2_2 wn_ihm_2_2 vdd dsyn
Vwp_ihx_2_2 wp_ihx_2_2 0 0.6162
Vwn_ihx_2_2 wn_ihx_2_2 0 0.3838
X_ihx_2_2 a_xp2 a_xn2 xhp2 xhn2 wp_ihx_2_2 wn_ihx_2_2 vdd dsyn
Vwp_bk_2 wp_bk_2 0 0.5729
Vwn_bk_2 wn_bk_2 0 0.4271
X_bk_2 eop eon xhp2 xhn2 wp_bk_2 wn_bk_2 vdd dsyn
Xn2 xhp2 xhn2 ahp2 ahn2 vdd vbneu dneuron
Xeh2 xhp2 xhn2 mhp2 mhn2 ehp2 ehn2 vdd gm esub
Mlp_mh3 mhp3 mhp3 vdd vdd PNR W=3000u L=100u
Mln_mh3 mhn3 mhn3 vdd vdd PNR W=3000u L=100u
Mlp_xh3 xhp3 xhp3 vdd vdd PNR W=3000u L=100u
Mln_xh3 xhn3 xhn3 vdd vdd PNR W=3000u L=100u
Cxhp3 xhp3 0 0.4p
Cxhn3 xhn3 0 0.4p
Vwp_ihm_1_3 wp_ihm_1_3 0 0.5588
Vwn_ihm_1_3 wn_ihm_1_3 0 0.4412
X_ihm_1_3 a_xp1 a_xn1 mhp3 mhn3 wp_ihm_1_3 wn_ihm_1_3 vdd dsyn
Vwp_ihx_1_3 wp_ihx_1_3 0 0.5588
Vwn_ihx_1_3 wn_ihx_1_3 0 0.4412
X_ihx_1_3 a_xp1 a_xn1 xhp3 xhn3 wp_ihx_1_3 wn_ihx_1_3 vdd dsyn
Vwp_ihm_2_3 wp_ihm_2_3 0 0.5057
Vwn_ihm_2_3 wn_ihm_2_3 0 0.4943
X_ihm_2_3 a_xp2 a_xn2 mhp3 mhn3 wp_ihm_2_3 wn_ihm_2_3 vdd dsyn
Vwp_ihx_2_3 wp_ihx_2_3 0 0.5057
Vwn_ihx_2_3 wn_ihx_2_3 0 0.4943
X_ihx_2_3 a_xp2 a_xn2 xhp3 xhn3 wp_ihx_2_3 wn_ihx_2_3 vdd dsyn
Vwp_bk_3 wp_bk_3 0 0.6093
Vwn_bk_3 wn_bk_3 0 0.3907
X_bk_3 eop eon xhp3 xhn3 wp_bk_3 wn_bk_3 vdd dsyn
Xn3 xhp3 xhn3 ahp3 ahn3 vdd vbneu dneuron
Xeh3 xhp3 xhn3 mhp3 mhn3 ehp3 ehn3 vdd gm esub
Mlp_mo mop mop vdd vdd PNR W=3000u L=100u
Mln_mo mon mon vdd vdd PNR W=3000u L=100u
Vwp_ho_0 wp_ho_0 0 0.5661
Vwn_ho_0 wn_ho_0 0 0.4339
X_ho_0 ahp0 ahn0 mop mon wp_ho_0 wn_ho_0 vdd dsyn
Vwp_ho_1 wp_ho_1 0 0.5893
Vwn_ho_1 wn_ho_1 0 0.4107
X_ho_1 ahp1 ahn1 mop mon wp_ho_1 wn_ho_1 vdd dsyn
Vwp_ho_2 wp_ho_2 0 0.5729
Vwn_ho_2 wn_ho_2 0 0.4271
X_ho_2 ahp2 ahn2 mop mon wp_ho_2 wn_ho_2 vdd dsyn
Vwp_ho_3 wp_ho_3 0 0.6093
Vwn_ho_3 wn_ho_3 0 0.3907
X_ho_3 ahp3 ahn3 mop mon wp_ho_3 wn_ho_3 vdd dsyn
Veop eop 0 0.5
Veon eon 0 0.5
.control
op
wrdata pcd6.dat v(xhp0) v(xhn0) v(ahp0) v(ahn0) v(mop) v(mon) v(xhp0) v(xhn0) v(ehp0) v(ehn0) v(xhp1) v(xhn1) v(ehp1) v(ehn1) v(xhp2) v(xhn2) v(ehp2) v(ehn2) v(xhp3) v(xhn3) v(ehp3) v(ehn3) v(mop) v(mon) v(eop) v(eon)
.endc
.end
